US08754100B2
Synthesis of 5-hydroxy-4-(2-trifluoromethylphenyl)pentanenitrile
Thionyl chloride (8.25 mL) was added to 4-cyano-2-(2-trifluoromethylphenyl)butanoic acid (2.9 g), and the mixture was heated under reflux. After one hour, concentration under reduced pressure gave an oil. The oil was dissolved in tetrahydrofuran (50 mL) and ethanol (20 mL), and sodium borohydride (855 mg) was added at 0° C. After stirring at room temperature for one hour, the reaction was terminated with water, followed by dilution with ethyl acetate. The organic layer was washed with 1 N hydrochloric acid, a saturated sodium bicarbonate aqueous solution and brine and dried over magnesium sulfate. Concentration under reduced pressure gave a pale yellow oil. The oil was purified by silica gel column chromatography (mobile phase:ethyl acetate/heptane=0 to 50%) to obtain the title compound (2.14 g).

reactant | Thionyl chloride | 8.25 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-cyano-2-(2-trifluoromethylphenyl)butanoic acid | 2.9 g | C(#N)CCC(C(=O)O)C1=C(C=CC=C1)C(F)(F)F | C12H10F3NO2
reactant | sodium borohydride | 855 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-hydroxy-4-(2-trifluoromethylphenyl)pentanenitrile | 2.14 g | OCC(CCC#N)C1=C(C=CC=C1)C(F)(F)F | C12H12F3NO
